US06313162B1
(a) 3-Methoxyethoxymethoxy-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-bromonaphthalene
720 mg (24 mmol) of sodium hydride (80% in oil) and 50 ml of DMF are introduced into a three-necked flask under a stream of nitrogen. A solution of 5.7 g (20 mmol) of 3-bromo-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthol dissolved in 75 ml of DMF are added dropwise and the mixture is stirred until the evolution of gas has ceased. 6.8 ml (59.3 mmol) of methoxyethoxymethyl chloride are then added at 0° C. and the mixture is stirred for four hours. The reaction medium is poured into water and extracted with ethyl ether, and the organic phase is separated out after settling has taken place, dried over magnesium sulphate and evaporated. 16.6 g (91%) of the expected product are collected in the form of an oil.

reactant | sodium hydride | 24 mmol, 720 mg | [H-].[Na+]
reactant | 3-bromo-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthol | 20 mmol, 5.7 g | BrC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)O | C14H19BrO
reactant | methoxyethoxymethyl chloride | 59.3 mmol, 6.8 ml | COCCOCCl | C4H9ClO2
reactant | water | O | H2O
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-Methoxyethoxymethoxy-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-bromonaphthalene | COCCOCOC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)Br | C18H27BrO3
